US08686004B2
Stage 4: N-{6-[1-(Pyridin-3-yl)-1H-pyrazol-4-yl]pyridin-2-yl}methanesulphonamide
146 mg (585 μmol) of 6-[1-(pyridin-3-yl)-1H-pyrazol-4-yl]pyridine-2-amine and 54.0 μl (701 μmol) of N-methylmorpholine were initially charged in 10 ml of dichloromethane, and methanesulphonyl chloride was added at room temperature. The mixture was stirred overnight and the reaction mixture was filtered through silica gel (eluent: ethyl acetate). After concentration, the crude product was purified by chromatography (dichloromethane/methanol).

reactant | 6-[1-(pyridin-3-yl)-1H-pyrazol-4-yl]pyridine-2-amine | 585 μmol, 146 mg | N1=CC(=CC=C1)N1N=CC(=C1)C1=CC=CC(=N1)N | C13H11N5
reactant | N-methylmorpholine | 701 μmol, 54.0 μl | CN1CCOCC1 | C5H11NO
reactant | methanesulphonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | N-{6-[1-(Pyridin-3-yl)-1H-pyrazol-4-yl]pyridin-2-yl}methanesulphonamide | N1=CC(=CC=C1)N1N=CC(=C1)C1=CC=CC(=N1)NS(=O)(=O)C | C14H13N5O2S
